US06608072B1
c) 5-Chloro-2-(4-fluorophenyl)-1-(2-methylsulfinyl-4-pyrimidinyl)imidazo[4,5-b]pyridine
5-Chloro-2-(4-fluorophenyl)-1-(2-methylthio-4-pyrimidinyl)imidazo[4,5-b]pyridine (372 mg 1 mmol) is dissolved in CH2Cl2/HOAc (7 ml 5/2) and treated with MCPBA (270 mg 70% 1.1 mmol) at 0° C. for 30 min. The reaction mixture is poured on 2N Na2CO3 and extracted with ethyl acetate three times. The combined organic phases are dried over Na2SO4, filtered, evaporated to dryness and purified by SiO2 chromatography (ethyl acetate) to yield the title compound (400 mg 100%) as yellow foam.

reactant | 5-Chloro-2-(4-fluorophenyl)-1-(2-methylthio-4-pyrimidinyl)imidazo[4,5-b]pyridine | 1 mmol, 372 mg | ClC1=CC=C2C(=N1)N=C(N2C2=NC(=NC=C2)SC)C2=CC=C(C=C2)F | C17H11ClFN5S
reactant | MCPBA | 1.1 mmol, 270 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | Na2CO3 | 2N | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 HOAc | 7 ml | C(Cl)Cl.CC(=O)O
product | 5-Chloro-2-(4-fluorophenyl)-1-(2-methylsulfinyl-4-pyrimidinyl)imidazo[4,5-b]pyridine | 400 mg, 100% | ClC1=CC=C2C(=N1)N=C(N2C2=NC(=NC=C2)S(=O)C)C2=CC=C(C=C2)F | C17H11ClFN5OS
